US04604397
To a solution of 9.0 g of 9-methoxy-4-propyl-1,2,3,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-1-one in 90 ml of dry pyridine at 0° is added 0.90 g of lithium aluminium hydride. After 20 minutes at 30° the reaction is quenched with 1.8 ml of 10% sodium hydroxide, the reaction mixture is diluted with ethyl acetate, dried over magnesium sulfate and filtered. The filter cake is washed well with 10% methanol/methylene chloride and the solvent is removed in vacuo from the combined filtrates. The entire above reduction procedure is repeated on the residue using tetrahydrofuran instead of pyridine as the initial reaction solvent. The product is triturated with ether to afford a white powder which is treated with 28 ml of pyridine and 6.3 ml of phosphorus oxychloride at 65° for 30 minutes. The reaction mixture is poured onto a mixture of ice and sodium carbonate solution, and the product is extracted with ethyl acetate. After drying over magnesium sulfate, the solvent is removed in vacuo to afford, as an oil, 9-methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine; NMR: δ 0.90 (3H,t), 3.75 (3H,s).

reactant | 9-methoxy-4-propyl-1,2,3,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridin-1-one | 9.0 g | COC=1C=CC2=C(C1)C1=C(N(CCC1=O)CCC)CO2 | C16H19NO3
reactant | lithium aluminium hydride | 0.90 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | phosphorus oxychloride | 6.3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | pyridine | 90 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 28 ml | N1=CC=CC=C1 | C5H5N
product | 9-methoxy-4-propyl-2,3,4a,5-tetrahydro-4H-[1]-benzopyrano[3,4-b]pyridine | COC=1C=CC2=C(C1)C=1C(N(CCC1)CCC)CO2 | C16H21NO2
